US08614233B2
p-Nitrobenzyloxycarbonylbenzotriazole (32a):
p-Nitrobenzyl chloroformate (0.5 mmol) was dissolved in 5 mL of CH2Cl2 and treated with benzotriazole (0.5 mmol) using Et3N (2 mmol) as base. The mixture was stirred overnight at room temperature, diluted with CH2Cl2 (20 mL) and washed with 3×5 mL of 1N HCl, 2×5 mL of 1N NaOH and 1×5 mL of brine. The organic phase was dried and filtered. The volatiles were removed and the product was triturated with diethyl ether to provide a pale yellow solid (59% yield). mp 160-162° C. 1H NMR (CDCl3) δ 8.27 (d, 1H, J=8.9 Hz), 8.17 (m, 3H), 7.72 (d, 1H, J=8.9 Hz), 7.65 (td, 1H, J=8.3 Hz, 1.1 Hz), 7.53 (m, 2H), 5.26 (s, 2H). 13C NMR (CDCl3) δ 154.84, 146.17, 142.27, 141.30, 132.01, 130.82, 128.78, 126.37, 124.16, 120.86, 113.58, 68.66. HRMS (FAB) calcd for C14H11N4O4 ([M+H]+): 299.0775. found 297.0775.

reactant | p-Nitrobenzyl chloroformate | 0.5 mmol | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | benzotriazole | 0.5 mmol | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | Et3N | 2 mmol | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyloxycarbonylbenzotriazole | 59% yield | [N+](=O)([O-])C1=CC=C(COC(=O)C2=CC=CC=3NN=NC32)C=C1 | C14H10N4O4
